US07727988B2
To a suspension of 50% NaH (0.42 g, 8.7 mmol) in DMF (5 mL), a solution of 5-trifluoromethyl-1H-pyrimidine-2,4-dione (1.2 g, 6.66 mmol) was added drop wise maintaining the temperature at 0° C. The mixture was then heated at 100° C. for 1 hour. After cooling to room temperature, (3-bromo-propoxy)-tert-butyl-dimethyl-silane (2 mL, 8.7 mmol) was added and the reaction was stirred overnight. The solvent was evaporated and the crude was dissolved in a 25%aq solution of citric acid and extracted with Et2O. The organic phase was dried (Na2SO4) and evaporated. The crude was purified by flash chromatography with ethyl acetate-petroleum ether (2-8) to give 0.87 g of 1-[3-(tert-butyl-dimethyl-silanyloxy)-propyl]-5-trifluoromethyl-1H-pyrimidine-2,4-dione (37% yield).

reactant | NaH | 8.7 mmol, 0.42 g | [H-].[Na+]
reactant | 5-trifluoromethyl-1H-pyrimidine-2,4-dione | 6.66 mmol, 1.2 g | FC(C=1C(NC(NC1)=O)=O)(F)F | C5H3F3N2O2
reactant | (3-bromo-propoxy)-tert-butyl-dimethyl-silane | 8.7 mmol, 2 mL | BrCCCO[Si](C)(C)C(C)(C)C | C9H21BrOSi
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-[3-(tert-butyl-dimethyl-silanyloxy)-propyl]-5-trifluoromethyl-1H-pyrimidine-2,4-dione | 0.87 g, 37% yield | C(C)(C)(C)[Si](OCCCN1C(NC(C(=C1)C(F)(F)F)=O)=O)(C)C | C14H23F3N2O3Si
